US07390903B2
To a stirred solution of 50 mg (0.21 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-furan-2-yl-methanone in 2 ml acetic acid was added 0.016 ml (0.21 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 20 mg (31%) 1-(4-furan-2-yl-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a yellow solid. ES-MS m/e (%): 298 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-furan-2-yl-methanone | 0.21 mmol, 50 mg | NC1=C(C2=C(S1)CCC2)C(=O)C=2OC=CC2 | C12H11NO2S
reactant | pentane-2,4-dione | 0.21 mmol, 0.016 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-(4-furan-2-yl-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 20 mg, 31% | O1C(=CC=C1)C1=C2C(=NC(=C1C(C)=O)C)SC1=C2CCC1 | C17H15NO2S
